US05106871
Then, 80 ml of an ethyl acetate solution of 7.22 g of 2'-hydroxy-4,4',6'-tris(methoxymethoxy)-3,3'-bis(3-methyl-2-butenyl)chalcone was added to a suspension of 1.67 g of 5% palladium/carbon in 50 ml of ethyl acetate, in which a hydrogen gas had been sufficiently absorbed in advance, and the mixture was stirred at room temperature under atmospheric pressure in a hydrogen gas atmosphere for 4 hours. After the reaction, the suspension was filtered and the solvent was removed from the filtrate by distillation to obtain 6.23 g (yield=85.3%) of 1-[2-hydroxy-4,6-bis(methoxymethoxy)-3-isopentylphenyl]-3-(3-isopentyl-4-methoxymethoxyphenyl)-1-propanone in the form of a syrup.

reactant | 2'-hydroxy-4,4',6'-tris(methoxymethoxy)-3,3'-bis(3-methyl-2-butenyl)chalcone | 7.22 g | OC1=C(C(C=CC2=CC(=C(C=C2)OCOC)CC=C(C)C)=O)C(=CC(=C1CC=C(C)C)OCOC)OCOC | C31H40O8
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 1.67 g | [Pd] | Pd
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-hydroxy-4,6-bis(methoxymethoxy)-3-isopentylphenyl]-3-(3-isopentyl-4-methoxymethoxyphenyl)-1-propanone | 6.23 g, yield=85.3% | OC1=C(C(=CC(=C1CCC(C)C)OCOC)OCOC)C(CCC1=CC(=C(C=C1)OCOC)CCC(C)C)=O | C31H46O8
